US05359098
2-Cyclopentyl-6-[6-piperidinyl)hexoxy-4H-1-benzopyran-4-one hydrochloride
The compound was prepared by a method similar to Example 11 from 2',5'-dihydroxyacetophenone, cyclopentanecarbonyl chloride, 1-bromo-6-chlorohexane, and piperidine: mp 138°-139° C.

reactant | 2',5'-dihydroxyacetophenone | OC1=C(C=C(C=C1)O)C(C)=O | C8H8O3
reactant | cyclopentanecarbonyl chloride | C1(CCCC1)C(=O)Cl | C6H9ClO
reactant | 1-bromo-6-chlorohexane | BrCCCCCCCl | C6H12BrCl
reactant | piperidine | N1CCCCC1 | C5H11N
product | 2-Cyclopentyl-6-[6-piperidinyl)hexoxy-4H-1-benzopyran-4-one hydrochloride | Cl.C1(CCCC1)C=1OC2=C(C(C1OCCCCCCC1CCCCN1)=O)C=CC=C2 | InChI=1S/C25H35NO3.ClH/c27-23-21-15-6-7-16-22(21)29-24(19-11-4-5-12-19)25(23)28-18-10-2-1-3-13-20-14-8-9-17-26-20;/h6-7,15-16,19-20,26H,1-5,8-14,17-18H2;1H
